US08912200B2
Step 2: 4-Bromo-1-iodo-2-methoxybenzene
4-Bromo-2-methoxy-phenylamine (2.02 g, 10 mmol) was added to a solution of p-toluensulphonic acid monohydrate (3.80 g, 20 mmol) in acetonitrile (30 mL). The mixture was cooled in an ice bath and treated with an solution of sodium nitrite (0.69 g, 10 mmol) and potassium iodide (4.15 g, 25 mmol) in water (7 mL) over 15 min maintaining the internal temperature below 10° C. After stirring at that temperature for 15 min and then for 0.5 h at room temperature, the reaction mixture was diluted with water and extracted with EtOAc (5×50 mL). The combined organic extracts were washed with 2M sodium thiosulfate (10 mL), brine (4×20 mL), water (20 mL), anhydrified over sodium sulphate, and evaporated to dryness affording a black oil that was purified by flash chromatography (petroleum ether/tert-butylmethyl ether 5/1) to yield the title compound (1.63 g, 52.2%).

reactant | 4-Bromo-2-methoxy-phenylamine | 10 mmol, 2.02 g | BrC1=CC(=C(C=C1)N)OC | C7H8BrNO
reactant | p-toluensulphonic acid monohydrate | 20 mmol, 3.80 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium nitrite | 10 mmol, 0.69 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 25 mmol, 4.15 g | [I-].[K+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | water | 7 mL | O | H2O
product | 4-Bromo-1-iodo-2-methoxybenzene | 1.63 g, 52.2% | BrC1=CC(=C(C=C1)I)OC | C7H6BrIO
